US07238702B2
Part A. 2-(Allylamino)4-(trifluoromethyl)benzamide
A mixture of 2-fluoro-4-trifluoromethylbenzamide (5.60 g, 27.05 mmol.), K2CO3 (11.2 g, 81.16 mmol), allylamine (7.71 g, 135.26 mmol) and dimethylacetamide (50 mL) was heated at 140° C. for 18 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (100 mL) and washed with a solution of aqueous saturated sodium bicarbonate (3×100 mL). The ethyl acetate layer was dried over sodium sulfate and concentrated to give the title compound (6.5 g, 98% yield) as a brown solid.

reactant | 2-fluoro-4-trifluoromethylbenzamide | 27.05 mmol, 5.60 g | FC1=C(C(=O)N)C=CC(=C1)C(F)(F)F | C8H5F4NO
reactant | K2CO3 | 81.16 mmol, 11.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allylamine | 135.26 mmol, 7.71 g | C(C=C)N | C3H7N
reactant | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Allylamino)4-(trifluoromethyl)benzamide | 6.5 g, 98% yield | C(C=C)NC1=C(C(=O)N)C=CC(=C1)C(F)(F)F | C11H11F3N2O
